US04820834
2,3-Dihydro-2-oxo-5-phenyl-3-(((phenylmethoxy)carbonyl)amino)-1H-1,4-benzodiazepine-1-propanoic acid ethyl ester
The procedure of Example 134 was carried out using equivalent amounts of 1,3-dihydro-3-phenylmethyloxycarbonylamino-5-phenyl-2H-1,4-benzodiazepin-2-one and ethyl bromopropionate. The product was purified by chromatography on silica gel (hexane-ethyl acetate elution). The combined product fractions were evaporated to dryness in vacuo and crystallized to give the title compound which was dried at 65° C.: m.p. 57°-59° C.

reactant | 1,3-dihydro-3-phenylmethyloxycarbonylamino-5-phenyl-2H-1,4-benzodiazepin-2-one | C1(=CC=CC=C1)COC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C23H19N3O3
reactant | ethyl bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | 2,3-Dihydro-2-oxo-5-phenyl-3-(((phenylmethoxy)carbonyl)amino)-1H-1,4-benzodiazepine-1-propanoic acid ethyl ester | C(C)OC(CCN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O)=O | C28H27N3O5
